US04513148
Methylnitramine decomposes explosively in contact with concentrated sulfuric acid. It is evolved when aniline reacts with tetryl; a diphenylamine derivative is produced simultaneously. Methylnitramine reacts with picryl chloride to form tetryl.

reactant | Methylnitramine | CN[N+](=O)[O-] | CH4N2O2
reactant | picryl chloride | C=1(C([N+](=O)[O-])=CC([N+](=O)[O-])=CC1[N+](=O)[O-])Cl | C6H2ClN3O6
product | tetryl | CN(C1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C7H5N5O8
